** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/yadav/schematic/xschem/YadavVCR.sch
.subckt YadavVCR Vdd Rin Rout Vc Vss
*.PININFO Vc:I Vss:B Vdd:B Rin:I Rout:O
XM3 Vdd Rin net2 Vss sg13_hv_nmos w=0.72u l=4.14u ng=1 m=1 mm_ok=1
XM13 net1 net1 Vdd Vdd sg13_hv_pmos w=10.0u l=2.16u ng=1 m=1 mm_ok=1
XM1 net3 Rin Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=1 m=1 mm_ok=1
XM5 net1 net2 Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=1 m=1 mm_ok=1
XM2 net1 Rout Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=1 m=1 mm_ok=1
XM16 net3 net3 Vdd Vdd sg13_hv_pmos w=10.0u l=2.16u ng=1 m=1 mm_ok=1
XM7 net2 Vc Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=1 m=1 mm_ok=1
XM6 net3 net6 Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=1 m=1 mm_ok=1
XM14 net4 net1 Vdd Vdd sg13_hv_pmos w=10.0u l=2.16u ng=1 m=1 mm_ok=1
XM8 net6 Vc Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=1 m=1 mm_ok=1
XM4 Vdd Rout net6 Vss sg13_hv_nmos w=0.72u l=4.14u ng=1 m=1 mm_ok=1
XM9 net4 net4 Vss Vss sg13_hv_nmos w=0.72u l=2.16u ng=1 m=1 mm_ok=1
XM10 Rin net4 Vss Vss sg13_hv_nmos w=0.72u l=2.16u ng=1 m=1 mm_ok=1
XM17 Rin net3 Vdd Vdd sg13_hv_pmos w=10.0u l=2.16u ng=1 m=1 mm_ok=1
XM18 net5 net3 Vdd Vdd sg13_hv_pmos w=10.0u l=2.16u ng=1 m=1 mm_ok=1
XM11 net5 net5 Vss Vss sg13_hv_nmos w=0.72u l=2.16u ng=1 m=1 mm_ok=1
XM12 Rout net5 Vss Vss sg13_hv_nmos w=0.72u l=2.16u ng=1 m=1 mm_ok=1
XM15 Rout net1 Vdd Vdd sg13_hv_pmos w=10.0u l=2.16u ng=1 m=1 mm_ok=1
.ends
